US04622169
Copper (II)-1,4-diamino anthraquinone
Copper (II) chloride dihydrate (0.71 g) is dissolved in dimethylformamide (30 ml) and 1,4-diamino anthraquinone (1.0 g) is added. The mixture quickly turns into a paste and is filtered and washed with methylene chloride before drying. The filtrate is then washed with water, acetone and finally methylene chloride and dried overnight in a vacuum oven. The yield is 0.86 g of a dark blue powder having a conductivity of 1.32×10-2S/cm. Analysis shows a composition of C--56.84 percent, H--3.86 percent, N--9.10 percent, Cu--5.7 percent and Cl--7.7 percent.

reactant | Copper (II) chloride dihydrate | 0.71 g | O.O.[Cu](Cl)Cl
reactant | 1,4-diamino anthraquinone | 1.0 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Copper (II) 1,4-diamino anthraquinone | [Cu+2].NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | InChI=1S/C14H10N2O2.Cu/c15-9-5-6-10(16)12-11(9)13(17)7-3-1-2-4-8(7)14(12)18;/h1-6H,15-16H2;/q;+2
